US03975384
6-Ethoxy-4-chloro-5-nitro-2-thiomorpholino-pyrimidine
14.8 gm (0.05 mol) of 4,6-dichloro-5-nitro-2-thiomorpholino-pyrimidine were dissolved in a mixture of 200 ml each of acetone and dioxane, and the solution was cooled to -20°C. A solution of sodium ethylate, prepared from 1.15 gm (0.05 mol) of sodium and 100 ml of ethanol, was added dropwise while stirring, at -20°C. The mixture was stirred another hour at room temperature, then poured over ice, and the product obtained thereby was recrystallized from isopropanol. Yield: 10.3 gm (67.5% of theory); m.p. 149°-150°C.

reactant | 4,6-dichloro-5-nitro-2-thiomorpholino-pyrimidine | 0.05 mol, 14.8 gm | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)N1CCSCC1 | C8H8Cl2N4O2S
reactant | sodium ethylate | CC[O-].[Na+]
reactant | sodium | 0.05 mol, 1.15 gm | [Na] | Na
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-Ethoxy-4-chloro-5-nitro-2-thiomorpholino-pyrimidine | C(C)OC1=C(C(=NC(=N1)N1CCSCC1)Cl)[N+](=O)[O-] | C10H13ClN4O3S
